US07138075B2
1,9-bis(2-thienyl)thianthrene
An airfree tube containing 1,9-dibromothianthrene (187 mg, 0.5 mmole) and Pd(PPh3)2Cl2 (35 mg, 0.05 mmole) was flame dried and filled with Ar. DMF (5 mL) was added to the tube and the tube was heated to 70° C. Tributylstannylthiophene (580 mg, 1.5 mmole) was added and the solution turned black. The reaction mixture was stirred for 2 days and then cooled down to room temperature. It was poured into dichloromethane (50 mL) and the organic layer was washed by water twice, dried by MgSO4. The solvent was removed in vacao. The crude product was further purified by column chromatography (hexane/dichloromethane 6/1) and yield white crystal (196 mg, 92%).

reactant | 1,9-dibromothianthrene | 0.5 mmole, 187 mg | BrC1=CC=CC=2SC3=CC=CC(=C3SC12)Br | C12H6Br2S2
reactant | Tributylstannylthiophene | 1.5 mmole, 580 mg | C(CCC)[Sn](CCCC)(CCCC)C=1SC=CC1
catalyst | Pd(PPh3)2Cl2 | 0.05 mmole, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1,9-bis(2-thienyl)thianthrene | 196 mg, 92% | S1C(=CC=C1)C1=CC=CC=2SC3=CC=CC(=C3SC12)C=1SC=CC1 | C20H12S4
